US09212168B2
(a) 4-Bromo-2-fluoro-5-trifluoromethoxy-phenylamine
To a mixture of 2-fluoro-5-(trifluoromethoxy)aniline (2 g, 10 mmol) dissolved in DMF (4 mL) was slowly added a solution of N-bromosuccinimide (2.2 g, 12 mmol) dissolved in DMF (5 mL). The reaction mixture was stirred at RT for 1 h, concentrated and extracted with ethyl acetate/water. The organic layer was washed with brine, partitioned, dried over sodium sulfate, filtered, concentrated, and purified by silica chromatography (100% hexanes) to produce the title intermediate as a red oil (2 g, 70% yield). (m/z): [M+H]+ calcd for C7H4BrF4NO 273.94; 275.94. found 276.2.

reactant | 2-fluoro-5-(trifluoromethoxy)aniline | 10 mmol, 2 g | FC1=C(N)C=C(C=C1)OC(F)(F)F | C7H5F4NO
reactant | N-bromosuccinimide | 12 mmol, 2.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-fluoro-5-trifluoromethoxy-phenylamine | 2 g, 70% yield | BrC1=CC(=C(C=C1OC(F)(F)F)N)F | C7H4BrF4NO
